US05225423
6-Chloronicotinic acid (23.36 g, 0.18 mol), phosphorus pentachloride (41.65 g, 0.20 mol) and phosphorus oxychloride (20.50 ml, 0.22 mol) were stirred vigorously together at ambient temperature (20° C.). The resulting mixture was heated with stirring to 120° C. and kept at that temperature for a further 3 hours. The mixture was then allowed to cool to ambient temperature (20° C.) and excess phosphorus oxychloride was evaporated off under reduced pressure to yield 6-chloronicotinyl chloride as a brown oil 31.68 g, 100%), which was used directly in the following step.

reactant | 6-Chloronicotinic acid | 0.18 mol, 23.36 g | ClC1=NC=C(C(=O)O)C=C1 | C6H4ClNO2
reactant | phosphorus pentachloride | 0.20 mol, 41.65 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | phosphorus oxychloride | 0.22 mol, 20.50 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 6-chloronicotinyl chloride | 31.68 g, 100% | ClC1=NC=C(CCl)C=C1 | C6H5Cl2N
